### PR TITLE
[Merged by Bors] - feat(Analysis/Normed/Algebra/GelfandMazur): new file

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds two versions of the *Gelfand-Mazur* *Theorem*:
```lean
NormedAlgebra.Complex.nonempty_algEquiv (F : Type*) [NormedRing F] [NormOneClass F]
    [NormMulClass F] [NormedAlgebra ℂ F] [Nontrivial F] :
    Nonempty (ℂ ≃ₐ[ℂ] F)

NormedAlgebra.Real.nonempty_algEquiv_or (F : Type*) [NormedField F] [NormedAlgebra ℝ F] :
    Nonempty (F ≃ₐ[ℝ] ℝ) ∨ Nonempty (F ≃ₐ[ℝ] ℂ)
```
The version for complex algebras differs in its assumptions from the existing version [NormedRing.algEquivComplexOfComplete](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Algebra/Spectrum.html#NormedRing.algEquivComplexOfComplete) (nontrivial normed algebra with multiplicative norm vs. complete division ring with submultiplicative norm).
A version for real algebras is not yet in Mathlib; it is needed in the context of implementing (absolute) heights; see [Heights](https://github.com/MichaelStollBayreuth/Heights).

Following a suggestion by @j-loreaux, we also add some API for the `Bornology.cobounded` filter.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
I don't think I'm a very qualified reviewer for this PR (and Michael is not a new user, i.e. I expect to have very few style comments, if any). Thus, unassigning: let's pick somebody else.

**Comment by MichaelStollBayreuth** [comment]
Requesting a review from @j-loreaux since they have a recent related PR (that actually led to the merge conflict in Mathlib.lean...).

**Comment by j-loreaux** [comment]
@MichaelStollBayreuth do you under Peter Scholze's comment [here](https://mathoverflow.net/questions/10535/ways-to-prove-the-fundamental-theorem-of-algebra/420803#comment1081150_420803) that this is the "critical case" of Gelfand-Mazur? In particular he seems to suggest that the multiplicative version can be used to obtain the submultiplicative version, but it's not obvious to me how to do so.

I will have a thorough review of this in a day or two.

**Comment by MichaelStollBayreuth** [comment]
It's not clear to me either (but I have not thought about it much). What Peter says is rather vague, so I'm not really sure that he has thought about it a lot himself...
In any case, for this proof it is clearly essential that the norm is multiplicative and not just submultiplicative.

**Comment by MichaelStollBayreuth** [comment]
> I will have a thorough review of this in a day or two.

@j-loreaux ping?

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 1]
```diff
@@ -0,0 +1,366 @@
...
+  with multiplicative norm is isomorphic to `ℂ` as a `ℂ`-algebra.
+* `NormedAlgebra.Real.nonempty_algEquiv_or`: if a field `F` is a normed `ℝ`-algebra,
+  then `F` is isomorphic as an `ℝ`-algebra either to `ℝ` or to `ℂ`.
+
+### The complex case
+
+The proof we use here is a variant of a proof for the complex case (any normed `ℂ`-algebra
+is isomorphic to `ℂ`) that is originally due to Ostrowski
+[(Section 7 in *Über einige Lösungen der Funktionalgleichung φ(x)⋅φ(y)=φ(xy)*,
+Acta Math. 41, 271-284 (1917))}(https://doi.org/10.1007/BF02422947).
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: This should be added to the bibliography and referenced.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 2]
```diff
@@ -0,0 +1,366 @@
...
+See also the concise version provided by Peter Scholze on
+[Math Overflow](https://mathoverflow.net/questions/10535/ways-to-prove-the-fundamental-theorem-of-algebra/420803#420803).
+
+This proof goes as follows. Let `x : F` be arbitrary; we need to show that `x = z•1`
+for some `z : ℂ`. We consider the function `z ↦ ‖x - z•1‖`. It has a minimum `M`,
+which it attains at some point `z`, which (upon replacing `x` by `x + z•1`) we can
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]:
```suggestion
which it attains at some point `z`, which (upon replacing `x` by `x - z•1`) we can
assume to be zero. If `M = 0`, we are done, so assume not. For `n : ℕ`,
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 3]
```diff
@@ -0,0 +1,366 @@
...
+
+The proof we use here is a variant of a proof for the complex case (any normed `ℂ`-algebra
+is isomorphic to `ℂ`) that is originally due to Ostrowski
+[(Section 7 in *Über einige Lösungen der Funktionalgleichung φ(x)⋅φ(y)=φ(xy)*,
+Acta Math. 41, 271-284 (1917))}(https://doi.org/10.1007/BF02422947).
+See also the concise version provided by Peter Scholze on
+[Math Overflow](https://mathoverflow.net/questions/10535/ways-to-prove-the-fundamental-theorem-of-algebra/420803#420803).
+
+This proof goes as follows. Let `x : F` be arbitrary; we need to show that `x = z•1`
+for some `z : ℂ`. We consider the function `z ↦ ‖x - z•1‖`. It has a minimum `M`,
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: in this whole paragraph you go back and forth between considering `z` as a variable and `z` as the argument which attains this minimum. I think it would be clearer if you distinguished these.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 4]
```diff
@@ -0,0 +1,366 @@
...
+which it attains at some point `z`, which (upon replacing `x` by `x + z•1`) we can
+assume to be zero. If `M = 0`, we are done, so assume not. For `n : ℕ`,
+a primitive `n`th root of unity `ζ : ℂ`, and `z : ℂ` with `|z| < M = ‖x‖` we then have that
+`M ≤ ‖x - z•1‖ = ‖x^n - z^n•1‖ / ∏ 0 < k < n, ‖x - (ζ^k*z)•1‖`,
+which is bounded by `(M^n + |z|^n)/M^(n-1) = M*(1 + (|z|/M)^n)`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]:
```suggestion
`M ≤ ‖x - z • 1‖ = ‖x ^ n - z ^ n • 1‖ / ∏ 0 < k < n, ‖x - (ζ ^ k * z) • 1‖`,
which is bounded by `(M ^ n + |z| ^ n) / M ^ (n-1) = M * (1 + (|z| / M) ^ n)`.
```
and similarly in other places.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 5]
```diff
@@ -0,0 +1,366 @@
...
+and `‖aeval x p‖` gets large when `p` has large coefficients (*), there will be some `p₀`
+such that `‖aeval x p₀‖` attains a minimum (see `NormedAlgebra.Real.exists_min_norm_φ`).
+We assume that this is positive and derive a contradiction. Let `M := ‖aeval x p₀‖ > 0`
+be the minimal value.
+Since every monic polynomial `f : ℝ[X]` of even degree can be written as a product
+of monic polynomials of degree `2`
+(see `Polynomial.IsMonicOfDegree.eq_isMonicOfDegree_two_mul_isMonicOfDegree`),
+it follows that `‖aeval x f‖ ≥ M^(f.natDegree / 2)`.
+
+(*) This is actually slightly subtle. It is certainly true for `‖x - r•1‖` with `r : ℝ`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: I'm not sure that `(*)` is the best way to handle a comment like this since we don't actually have footnotes. I would reword the previous paragraph slightly so that you can fit this comment in there.

For example:
```
The space `ℝ²` of monic polynomials of degree `2` is complete and locally compact
and hence `‖aeval x p‖` gets large when `p` has large coefficients.
This is actually slightly subtle. It is certainly true for `‖x - r•1‖` with `r : ℝ`.
If the minimum of this is zero, then the minimum for monic polynomials of degree `2`
will also be zero (and is attained on a one-dimensional subset). Otherwise, one can
indeed show that a bound on `‖x^2 - a•x + b•1‖` implies bounds on `|a|` and `|b|`.

By the first sentence of the previous paragraph, there will be some `p₀` ...
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 6]
```diff
@@ -0,0 +1,366 @@
...
+  obtain ⟨U, hU₀, hU⟩ : ∃ U ∈ nhds w, ∀ u ∈ U, ‖f u - f w‖ < M := by
+    refine ⟨f ⁻¹' {y | ‖y - f w‖ < M}, hf.tendsto w ?_, fun _ H ↦ by simpa using H⟩
+    exact isOpen_lt (by fun_prop) (by fun_prop) |>.mem_nhds (by simpa)
+  refine ⟨U, hU₀, fun u hu ↦ (le_antisymm (h ..) ?_).symm⟩
+  refine ge_of_tendsto ?_ <| Filter.Eventually.mono (Filter.Ioi_mem_atTop 0) <| H u hw
+  conv => enter [3, 1]; rw [show M = M * (1 + 0) by ring] -- preparation
+  refine tendsto_const_nhds.mul <| tendsto_const_nhds.add <|
+    tendsto_pow_atTop_nhds_zero_of_abs_lt_one ?_
+  rw [abs_of_nonneg (by positivity)]
+  exact (div_lt_one hM).mpr <| hU u hu
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: This is the same idea, but it uses `isOpen_iff_eventually` and `filter_upwards` to avoid so much messing with neighborhoods. And by using `suffices` and supplying the goal we want, there is no need to do a weird `conv` to prepare the goal.
```suggestion
  suffices {y | ‖f y‖ = M} = Set.univ by simpa only [← this, hx] using Set.mem_univ y
  refine IsClopen.eq_univ ⟨isClosed_eq (by fun_prop) (by fun_prop), ?_⟩ <| Set.nonempty_of_mem hx
  rw [isOpen_iff_eventually]
  intro w hw
  filter_upwards [mem_map.mp <| hf.tendsto w (Metric.ball_mem_nhds (f w) hM)] with u hu
  simp only [Set.mem_preimage, Metric.mem_ball, dist_eq_norm, ← div_lt_one₀ hM] at hu
  apply le_antisymm ?_ (h u)
  suffices Tendsto (fun n : ℕ ↦ M * (1 + (‖f u - f w‖ / M) ^ n)) atTop (𝓝 (M * (1 + 0))) by
    refine ge_of_tendsto (by simpa) ?_
    filter_upwards [Filter.Ioi_mem_atTop 0] with n hn
    exact H u hw n hn
  exact tendsto_pow_atTop_nhds_zero_of_lt_one (by positivity) hu |>.const_add 1 |>.const_mul M
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 7]
```diff
@@ -0,0 +1,366 @@
...
+
+/-- In a normed algebra `F` over a normed field `𝕜` that is a proper space, the function
+`z : 𝕜 ↦ ‖x - z • 1‖` achieves a global minimum for every `x : F`. -/
+lemma exists_min_norm_sub_smul (𝕜 : Type*) {F : Type*} [NormedField 𝕜]
+    [ProperSpace 𝕜] [SeminormedRing F] [NormedAlgebra 𝕜 F] [NormOneClass F] (x : F) :
+  ∃ z : 𝕜, ∀ z' : 𝕜, ‖x - z • 1‖ ≤ ‖x - z' • 1‖ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: You could phrase this as `∃ z, IsMinOn (‖x - · • 1‖) Set.univ z` instead, although I'm not sure if it buys you much. It's at least a little nicer to read though.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 8]
```diff
@@ -0,0 +1,366 @@
...
+  have hf : Continuous fun z : 𝕜 ↦ ‖x - z • 1‖ := by fun_prop
+  refine hf.exists_forall_le_of_isBounded 0 <|
+     (Metric.isBounded_iff_subset_closedBall 0).mpr ⟨2 * ‖x‖, fun z hz ↦ ?_⟩
+  rw [Set.mem_setOf, norm_sub_rev] at hz
+  simpa [← two_mul] using (norm_sub_norm_le ..).trans hz
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: I realize this proof is only a few lines, and the one I'm about to present below is not really shorter, but I got sidetracked while reviewing this. Basically, I wanted to be able to say "hey, it's obvious that `Tendsto (‖x - · • 1‖) (cobounded 𝕜) atTop`" and then use this to show boundedness. Moreover, in doing so, I realized we have some holes in our API concerning `cobounded`.
```suggestion
  -- maybe with some appropriate tagging of `aesop` lemmas this could be `by aesop`.
  have : Tendsto (‖x - · • 1‖) (cobounded 𝕜) atTop := by
    simp only [← Algebra.algebraMap_eq_smul_one]
    exact tendsto_norm_cobounded_atTop |>.comp <| tendsto_const_sub_cobounded x |>.comp <| by simp
  refine Continuous.exists_forall_le_of_isBounded (by fun_prop) 0 ?_
  simpa [isBounded_def, Set.compl_setOf, Set.Ioi] using this (Ioi_mem_atTop (‖x - (0 : 𝕜) • 1‖))
```
In order for this to work, you need to add the relevant `cobounded` API.
```lean
open Filter Topology Bornology

-- These could be generalized even further, e.g., multiplicativized, and to pass to `IsUnit x`
-- in the context of a monoid. This would allow to generalize `Filter.tendsto_mul_left_cobounded`
-- the assumptions in the unproven ones below might be wrong as I didn't think carefully

@[simp]
theorem tendsto_add_const_cobounded {R : Type*} [Bornology R] [AddGroup R] [BoundedSub R] (x : R) :
    Tendsto (· + x) (cobounded R) (cobounded R) := by
  intro s hs
  rw [mem_map]
  rw [← isCobounded_def, ← isBounded_compl_iff] at hs ⊢
  rw [← Set.preimage_compl]
  convert isBounded_sub hs (t := {x}) isBounded_singleton using 1
  ext y
  simp [sub_eq_iff_eq_add]

-- probably commutativity is not necessary but I was being lazy.
@[simp]
theorem tendsto_const_add_cobounded {R : Type*} [Bornology R] [AddCommGroup R]
    [BoundedSub R] (x : R) :
    Tendsto (x + ·) (cobounded R) (cobounded R) := by
  simpa [add_comm] using tendsto_add_const_cobounded x

@[simp]
theorem tendsto_sub_const_cobounded {R : Type*} [Bornology R] [AddGroup R] [BoundedAdd R] (x : R) :
    Tendsto (· - x) (cobounded R) (cobounded R) := by
  sorry

@[simp]
theorem tendsto_const_sub_cobounded {R : Type*} [Bornology R] [AddGroup R] [BoundedAdd R] (x : R) :
    Tendsto (x - ·) (cobounded R) (cobounded R) := by
  sorry

@[simp]
theorem tendsto_algebraMap_cobounded (𝕜 𝕜' : Type*) [NormedField 𝕜] [SeminormedRing 𝕜']
    [NormedAlgebra 𝕜 𝕜'] [NormOneClass 𝕜'] :
    Tendsto (algebraMap 𝕜 𝕜') (cobounded 𝕜) (cobounded 𝕜') :=
  algebraMap_cobounded_le_cobounded 𝕜 𝕜'
```
Of course, you could also have compositional variants, like:
```lean
theorem _root_.Filter.Tendsto.add_const_cobounded {α R : Type*} [Bornology R] [AddGroup R]
    [BoundedSub R] (x : R) {f : α → R} {l : Filter α} (hf : Tendsto f l (cobounded R)) :
    Tendsto (f · + x) l (cobounded R) :=
  (tendsto_add_const_cobounded x).comp hf
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 9]
```diff
@@ -0,0 +1,366 @@
...
+    (h : ∀ z' : ℂ, M ≤ ‖x - z' • 1‖) {p : ℂ[X]} {n : ℕ} (hp : IsMonicOfDegree p n) (c : ℂ) :
+    M ^ n ≤ ‖aeval (x - c • 1) p‖ := by
+  induction n generalizing p with
+  | zero => simp [isMonicOfDegree_zero_iff.mp hp]
+  | succ n ih =>
+    obtain ⟨f₁, f₂, hf₁, hf₂, H⟩ := hp.eq_isMonicOfDegree_one_mul_isMonicOfDegree
+    obtain ⟨r, hr⟩ := isMonicOfDegree_one_iff.mp hf₁
+    have H' (y : F) : aeval y (X + C r) = y + r • 1 := by
+      simp [Algebra.algebraMap_eq_smul_one]
+    rw [H, aeval_mul, norm_mul, mul_comm, pow_succ, hr, H', sub_add, ← sub_smul]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]:
```suggestion
    obtain ⟨r, rfl⟩ := isMonicOfDegree_one_iff.mp hf₁
    have H' (y : F) : aeval y (X + C r) = y + r • 1 := by
      simp [Algebra.algebraMap_eq_smul_one]
    rw [H, aeval_mul, norm_mul, mul_comm, pow_succ, H', sub_add, ← sub_smul]
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 10]
```diff
@@ -0,0 +1,366 @@
...
+If `F` is a nontrivial normed `ℂ`-algebra with multiplicative norm, then we obtain a
+`ℂ`-algebra equivalence with `ℂ`. -/
+noncomputable
+def algEquivOfNormMul : ℂ ≃ₐ[ℂ] F := by
+  let e : ℂ →ₐ[ℂ] F := AlgHom.mk' (algebraMap ℂ F) (algebraMap.coe_smul ℂ ℂ F)
+  refine AlgEquiv.ofBijective e ⟨FaithfulSMul.algebraMap_injective ℂ F, fun x ↦ ?_⟩
+  obtain ⟨z, hz⟩ := exists_norm_sub_smul_one_eq_zero x
+  refine ⟨z, ?_⟩
+  rw [AlgHom.coe_mk', Algebra.algebraMap_eq_smul_one, eq_comm, ← sub_eq_zero]
+  exact norm_eq_zero.mp hz
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: If you're going to create data, you should do it cleanly, and `e` has a nice spelling:

```suggestion
def algEquivOfNormMul : ℂ ≃ₐ[ℂ] F :=
  .ofBijective (Algebra.ofId ℂ F) <| by
    refine ⟨FaithfulSMul.algebraMap_injective ℂ F, fun x ↦ ?_⟩
    obtain ⟨z, hz⟩ := exists_norm_sub_smul_one_eq_zero x
    refine ⟨z, ?_⟩
    rwa [norm_eq_zero, sub_eq_zero, ← Algebra.algebraMap_eq_smul_one, eq_comm, ← Algebra.ofId_apply]
      at hz
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 11]
```diff
@@ -0,0 +1,366 @@
...
+  have HH : M * (1 + (‖φ x u - φ x w‖ / M) ^ n) = (M ^ n + ‖φ x u - φ x w‖ ^ n) / M ^ (n - 1) := by
+    simp only [field, div_pow, ← pow_succ', Nat.sub_add_cancel hn]
+  rw [HH, le_div_iff₀ (by positivity)]; clear HH
+  let q (y : ℝ × ℝ) : ℝ[X] := X ^ 2 - C y.1 * X + C y.2
+  have hq (y : ℝ × ℝ) : IsMonicOfDegree (q y) 2 := isMonicOfDegree_sub_add_two ..
+  have hsub : q w - q u = (C u.1 - C w.1) * X + C w.2 - C u.2 := by simp only [q]; ring
+  have hdvd : q u ∣ q w ^ n - (q w - q u) ^ n := by
+    nth_rewrite 1 [← sub_sub_self (q w) (q u)]
+    exact sub_dvd_pow_sub_pow ..
+  have H' : ((q w - q u) ^ n).natDegree < 2 * n := by rw [hsub]; compute_degree; omega
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: I think the plan is for `grind` to completely replace `omega`, so I suggest this change here and throughout unless you have a specific reason to prefer `omega`.
```suggestion
  have H' : ((q w - q u) ^ n).natDegree < 2 * n := by rw [hsub]; compute_degree; grind
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 12]
```diff
@@ -0,0 +1,366 @@
...
+  · simp only [abs_zero]
+    positivity
+  rw [le_div_iff₀ hc₀]
+  calc |a| * c
+  _ ≤ |a| * ‖x - (b / a) • 1‖ := by gcongr; exact hbd _
+  _ = ‖a • x - b • 1‖ := by
+      rw [← Real.norm_eq_abs, ← norm_smul, smul_sub, smul_smul, mul_div_cancel₀ _ ha]
+  _ ≤ ‖x‖ ^ 2 + ‖x ^ 2 - a • x + b • 1‖ := by
+      simpa only [← norm_pow, sub_add, norm_sub_rev (x ^ 2)] using norm_le_norm_add_norm_sub' ..
+  _ ≤ _ := by rw [two_mul]; exact add_le_add_left h _
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: You can replace this lemma, and shorten the proof of the following result if you prove a different result:
```lean
open Filter Topology Bornology
private lemma tendsto_φ_cobounded {x : F} {c : ℝ} (hc₀ : 0 < c) (hbd : ∀ r : ℝ, c ≤ ‖x - r • 1‖) :
    Tendsto (φ x ·) (cobounded (ℝ × ℝ)) (cobounded F) := by
  simp_rw [φ, sub_add]
  refine tendsto_const_sub_cobounded (x ^ 2) |>.comp ?_
  rw [← tendsto_norm_atTop_iff_cobounded]
  refine .cobounded_prod (fun s hs ↦ ?_) ?_
  · obtain ⟨M, hM_pos, hM⟩ : ∃ M > 0, ∀ y ∈ s, ‖y‖ ≤ M := hs.exists_pos_norm_le
    suffices Tendsto (fun y ↦ ‖algebraMap ℝ F y.2‖ - M * ‖x‖) (𝓟 s ×ˢ cobounded ℝ) atTop by
      refine Filter.tendsto_atTop_mono' _ ?_ this
      filter_upwards [prod_mem_prod (mem_principal_self s) univ_mem]
      rintro x hx
      rw [norm_sub_rev]
      apply le_trans ?_ (norm_sub_norm_le ..)
      simp only [norm_algebraMap', norm_smul, norm_one, mul_one]
      gcongr
      exact hM _ hx.1
    simp only [norm_algebraMap', sub_eq_add_neg]
    apply tendsto_atTop_add_const_right
    rw [tendsto_norm_atTop_iff_cobounded]
    exact tendsto_snd
  · suffices Tendsto (fun y ↦ ‖y.1‖ * c) (cobounded ℝ ×ˢ ⊤) atTop by
      refine Filter.tendsto_atTop_mono' _ ?_ this
      filter_upwards [prod_mem_prod (isBounded_singleton (x := 0)) univ_mem] with y hy
      calc ‖y.1‖ * c ≤ ‖y.1‖ * ‖x - (y.1⁻¹ * y.2) • 1‖ := by gcongr; exact hbd _
        _ = ‖y.1 • x - y.2 • 1‖ := by
          simp only [← norm_smul, smul_sub, smul_smul]
          simp_all
    rw [tendsto_mul_const_atTop_of_pos hc₀, tendsto_norm_atTop_iff_cobounded]
    exact tendsto_fst
```
Admittedly, this is similar in length to what you already have, but I like it better for a few reasons.

1. the computations are simpler
2. the statement is easier to parse
3. the statement matches better what you wrote in the module documentation (which was my primary motivation for doing this)

Note that this uses some of the lemmas in the other comment about the cobounded filter.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 13]
```diff
@@ -0,0 +1,366 @@
...
+  have ha : |a| ≤ 2 * ‖x‖ ^ 2 / c := a_bound hc₀ hu hab
+  refine ⟨ha, ?_⟩
+  rw [two_mul, add_assoc, ← sub_le_iff_le_add, ← sub_sub]
+  calc |b| - ‖x‖ ^ 2 - 2 * ‖x‖ ^ 3 / c
+  _ = |b| - ‖x‖ ^ 2 - 2 * ‖x‖ ^ 2 / c * ‖x‖ := by ring
+  _ ≤ |b| - ‖x‖ ^ 2 - |a| * ‖x‖ := by gcongr
+  _ = ‖b • (1 : F)‖ - ‖a • x‖ - ‖x ^ 2‖ := by rw [sub_right_comm, norm_smul a]; simp
+  _ ≤ ‖b • 1 - a • x‖ - ‖x ^ 2‖ := by gcongr; exact norm_sub_norm_le ..
+  _ ≤ ‖x ^ 2 - a • x + b • 1‖ := by rw [sub_add_comm]; exact norm_sub_le_norm_add ..
+  _ ≤ ‖x‖ ^ 2 := hab
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: If you go with the above, the proof of this simplifies to:

```suggestion
private lemma exists_min_norm_φ (x : F) : ∃ z : ℝ × ℝ, ∀ w : ℝ × ℝ, ‖φ x z‖ ≤ ‖φ x w‖ := by
  obtain ⟨u, hu⟩ := exists_min_norm_sub_smul ℝ x
  rcases eq_or_lt_of_le (norm_nonneg (x - u • 1)) with hc₀ | hc₀
  · rw [eq_comm, norm_eq_zero, sub_eq_zero] at hc₀
    exact ⟨(u, 0), fun z' ↦ by simp [φ, hc₀, sq]⟩
  set c := ‖x - u • 1‖
  refine (continuous_φ x).norm.exists_forall_le_of_isBounded (0, 0) ?_
  simpa [isBounded_def, Set.compl_setOf, Set.Ioi] using
    tendsto_norm_cobounded_atTop.comp (tendsto_φ_cobounded hc₀ hu) (Ioi_mem_atTop (‖φ x (0, 0)‖))
```

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 14]
```diff
@@ -0,0 +1,366 @@
...
+-- without going via `IsIntegral` (missing API for `IsAlgebraic`?):
+/-
+  have : Algebra.IsAlgebraic ℝ F := by
+    refine ⟨fun x ↦ ?_⟩
+    obtain ⟨f, hf, hfx⟩ := exists_isMonicOfDegree_two_and_aeval_eq_zero x
+    refine (hfx ▸ isAlgebraic_zero).of_aeval f ?_ ?_
+    · exact hf.natDegree_eq.trans_ne two_ne_zero
+    · rw [hf.monic.leadingCoeff]
+      exact Submonoid.one_mem (nonZeroDivisors ℝ)
+-/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: If you think there's API missing, you can add it, but otherwise you can remove this. I don't think it's terribly necessary.

**Review by j-loreaux — COMMENTED** [review]
First, thanks for doing this! This is a really nice result and the proof is quite pretty too. Moreover, this is nicely done, and the explicit argument for the real case is cute.

A few things I think should be addressed globally:

1. The standard spelling of `z • 1` is `algebraMap 𝕜 F z`. I know you know this, but I think we should make the switch to have consistency throughout the library. If you strongly disagree, please explain why.
2. The naming of the declarations, especially the private ones, is not ideal. Either the names are not very descriptive, or too generic (e.g., `aux`, `φ`), despite the fact that they are namespaced.
3. There are style issues in the documentation (e.g., spacing around binary operations) that should be corrected throughout the file.
4. The module documentation is excellent, but it would be nice if pieces of it could make their way into the proofs too (not moving, but copying / writing new comments).
5. You've called this the Gelfand-Mazur theorem, and while I understand why you've chosen to do so, it doesn't feel quite right. I've never seen this as the statement of Gelfand-Mazur (although if you can provide me reference other than the MathOverflow post I'm open to hearing about it). In particular, I think this should be called *Ostrowski's Theorem*. I realize that there is a more common theorem from the same paper which also bears this title, but [Another Ostrowski's theorem](https://en.wikipedia.org/wiki/Ostrowski%27s_theorem#Another_Ostrowski's_theorem) supports my idea. Nevertheless, please keep the comments in the module documentation highlighting the distinctions between this and Gelfand-Mazur.
6. Less important, but you could opt for `IsMinOn` throughout.
7. I prefer the `cobounded` approach I describe below, but if you strongly disagree, we can discuss.

**Comment by MichaelStollBayreuth** [comment]
> 1. The standard spelling of `z • 1` is `algebraMap 𝕜 F z`. I know you know this, but I think we should make the switch to have consistency throughout the library. If you strongly disagree, please explain why.

I find `z • 1` so much nicer to read and write than `algebraMap 𝕜 F z`, and it comes up *a lot* in this file, so I'd rather change the standard spelling to that. But if there are really good reasons and an established convention to use `algebraMap 𝕜 F z` everywhere, I'll comply.

> 2. The naming of the declarations, especially the private ones, is not ideal. Either the names are not very descriptive, or too generic (e.g., `aux`, `φ`), despite the fact that they are namespaced.

I'll look at the names. Suggestions for better ones are welcome!

> 3. There are style issues in the documentation (e.g., spacing around binary operations) that should be corrected throughout the file.

OK.
 
> 4. The module documentation is excellent, but it would be nice if pieces of it could make their way into the proofs too (not moving, but copying / writing new comments).

I can do that.
 
> 5. You've called this the Gelfand-Mazur theorem, and while I understand why you've chosen to do so, it doesn't feel quite right. I've never seen this as the statement of Gelfand-Mazur (although if you can provide me reference other than the MathOverflow post I'm open to hearing about it). In particular, I think this should be called _Ostrowski's Theorem_. I realize that there is a more common theorem from the same paper which also bears this title, but [Another Ostrowski's theorem](https://en.wikipedia.org/wiki/Ostrowski%27s_theorem#Another_Ostrowski's_theorem) supports my idea. Nevertheless, please keep the comments in the module documentation highlighting the distinctions between this and Gelfand-Mazur.

Ostrowski's Theorem (the one you linked to) is what I'm deducing (in the [Heights](github.com/MichaelStollBayreuth/Heights) repo) from the statement proved in this file (I'll rename that one to `Ostrowski`):
```lean
variable {F : Type*} [Field F] {v : AbsoluteValue F ℝ}

open AbsoluteValue WithAbs

theorem GelfandMazur_nonarch [CompleteSpace (WithAbs v)] (h : ¬IsNonarchimedean v) :
    (∃ e : ℝ ≃+* WithAbs v, v.comap ((equiv v).toRingHom.comp e) ≈ .abs) ∨
      ∃ e : ℂ ≃+* WithAbs v, v.comap ((equiv v).toRingHom.comp e) ≈
        NormedField.toAbsoluteValue ℂ := by
  obtain ⟨f, hf⟩ := algebra_of_archimedean h
  let inst : Algebra ℝ F := f.toAlgebra
  rcases GelfandMazur_restrict_isEquiv hf with ⟨e, he⟩ | ⟨e, he⟩
  · exact .inl ⟨↑e, he⟩
  . exact .inr ⟨↑e, he⟩
```
Note that the statement proved in this PR does not assume completeness.

In a text written by Brian Conrad (https://math.stanford.edu/~conrad/676Page/handouts/ostrowski.pdf), there is

**Theorem 6.2** (Gelfand–Mazur). *The only complete archimedean fields are* (**R**, | · |^e_**R**) *with* 0 < e ≤ 1 *and* (**C**, | · |^e_**C**) *with* 0 < e ≤ 1, *where* | · **R** *and* | · |_**C** *are the usual absolute values on* **R** *and* **C.**

In S.J. Bhatt, S.H. Kulkarni, *Gelfand–Mazur Theorems in normed algebras: A survey*, Expo. Math. **36** (2018), 166-177, one finds in Section 1 ("The Gelfand-Mazur theorem"):

**Theorem 1.1** (Real Version). *Every real normed division algebra is isomorphic to the set of all real numbers* ℝ, *the complex numbers* ℂ *or the quaternions* ℍ.

So there is some precedent for calling this "Gelfand-Mazur". In any case, I'll add a reference to Ostrowski's (other) theorem in the docs.

> 6. Less important, but you could opt for `IsMinOn` throughout.

I'll consider this.

> 7. I prefer the `cobounded` approach I describe below, but if you strongly disagree, we can discuss.

This smells a bit like mission creep to me (and this corner of Mathlib is not that close to my core expertise), but at first sight, it looks like it makes sense, so I'll think about it.

I won't be able to work on this for the next few days, probably (teaching started here this week, and I'll need to write a report for a funding agency by Friday), but I hope to deal with your suggestions as soon as possible afterwards.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: Done.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: OK; using `z₀` for the concrete value.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: OK.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: OK; thanks!

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: Done. (Had to `open` a few things to make it work...)

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 9 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: One golf that escaped me...

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: OK.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: I'm doing that (at the two places where it is relevant), but it means that I have to rewrite with `isMinOn_univ_iff` at a few places in proofs.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: OK.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: I'm adding the API lemmas you suggest (without generalizations or compositional variants; I think this gets out of scope for this PR). I noticed some strange things, e.g.,
* There is [Bornology.IsBounded.neg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Pointwise.html#Bornology.IsBounded.neg), which assumes `[SeminormedAddGroup E]`, even though the weaker assumptions `[AddGroup E] [Bornology E] [BoundedSub E]` are sufficient. However, there seems to be no `BoundedSub` instance for `SeminornedAddGroup`s, even though they are mentioned explicitly where `BoundedSub` is defined.
* Similarly for [Filter.tendsto_neg_cobounded](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Bounded.html#Filter.tendsto_neg_cobounded).

So, to do this right, one needs to add a `BoundedSub` instance for `SeminormedAddGroup`s and then refactor all the lemmas to use the weaker assumptions (and move them to appropriate earlier files). But this is something that is rather orthogonal to the purpose of this PR (and also not something I'm willing to do myself: my Lean time is limited, and this is not my core area of expertise).

I would therefore leave the `cobounded` stuff at the state it is in after my additions and use it as you suggest in GelfandMazur (will continue with that tomorrow, probably).

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 12 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: OK. `Filter.Tendsto.cobounded_prod` doesn't seem to exist in Mathlib, so I had to reverse-engineer it (and add it and a proof to a suitable file).

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 13 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: OK, done. Also simplified the proof of `exists_isMonicOfDegree_two_and_aeval_eq_zero` to get rid of `a_bound`.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 14 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean]: I found a more direct way.

**Comment by MichaelStollBayreuth** [comment]
I think I have now addressed all comments/suggestions made by @j-loreaux, with the following minor exceptions.
* I have kept the (private) name `φ`. Its purpose is to be short, so that statements about this function are easy to read and state. As it is private, this should not have any harmful effects.
* I have kept the name *Gelfand-Mazur Theorem* (for the reasons mentioned in my last comment), but added some text on its relation to (the other) Ostrowski's Theorem to the module documentation. My plan is to add Ostrowski's Theorem in a follow-up PR.

Extending/improving/straightening out of the API for the `cobounded` filter beyond the additions made here I think should be done separately (and by somebody who is at home in this part of Mathlib).

File: Mathlib/Analysis/Normed/Algebra/Basic.lean [hunk 15]
```diff
@@ -50,3 +50,15 @@ instance [ProperSpace 𝕜] : CompactSpace (characterSpace 𝕜 A) := by
...
+
+section cobounded
+
+open Filter Bornology
+
+@[simp]
+theorem tendsto_algebraMap_cobounded (𝕜 𝕜' : Type*) [NormedField 𝕜] [SeminormedRing 𝕜']
+    [NormedAlgebra 𝕜 𝕜'] [NormOneClass 𝕜'] :
+    Tendsto (algebraMap 𝕜 𝕜') (cobounded 𝕜) (cobounded 𝕜') :=
+  algebraMap_cobounded_le_cobounded 𝕜 𝕜'
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/Basic.lean]: Can you put this in place of `algebraMap_cobounded_le_cobounded`, and then deprecate that declaration? They're the same up to defeq and the pre-existing version in Mathlib just has less API, so there's no reason to keep it.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean [hunk 16]
```diff
@@ -0,0 +1,410 @@
...
+### The real case
+
+The usual proof for the real case is "either `F` contains a square root of `-1`;
+then `F` is in fact a normed `ℂ`-agebra and we can use the result above, or else
+we adjoin a square root of `-1` to `F` to obtain a normed `ℂ`-agebra `F'` and
+apply the result to `F'`". The difficulty with formalizing this is that (as of October 2025)
+Mathlib does not provide a normed `ℂ`-algebra instance for `F'` (neither for
+`F' := AdjoinRoot (X ^ 2 + 1 : F[X])` nor for `F' := TensorProduct ℝ ℂ F`),
+and it is not so straight-forward to set this up. So we take inspiration from the
+proof sketched above for the complex case to obtain a direct proof.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean:65]:
```suggestion
proof sketched above for the complex case to obtain a direct proof.
An additional benefit is that this approach minimizes imports.
```

File: Mathlib/Topology/Bornology/BoundedOperation.lean [hunk 17]
```diff
@@ -144,6 +160,64 @@ instance [PseudoMetricSpace R] [Monoid R] [LipschitzMul R] : BoundedMul R where
...
+namespace Bornology
+
+open Filter Pointwise
+
+variable {R : Type*} [Bornology R] [AddGroup R] [BoundedSub R]
+
+instance : BoundedAdd R where
+  isBounded_add := fun {s t} hs ht ↦ by
+    rw [← neg_neg t, ← sub_eq_add_neg]
+    exact isBounded_sub hs <| isBounded_neg_iff.mpr ht
```
Comment (j-loreaux) [inline Mathlib/Topology/Bornology/BoundedOperation.lean]: The state of things here and below is quite unpleasant (note: not your fault at all!). We don't have a `BoundedNeg` type class, and we should. and then `AddGroup` and `BoundedAdd` and `BoundedNeg` should give `BoundedSub`, but I think this instance as-is is probably a bad one. I'm certainly not asking you to fix these problems in this PR, and I'm sorry that my previous suggestion sent you down this rabbit hole.

For this PR, you don't need these results in this generality (unless I'm grossly mistaken). How would you feel about doing these (i.e., mainly moving them) only for `SeminormedAddCommGroup` or whatever, and adding a TODO there that they should be generalized to bornology and the `BoundedFoo` classes?

File: Mathlib/Topology/Bornology/Constructions.lean [hunk 18]
```diff
@@ -84,6 +84,32 @@ theorem isBounded_prod_self : IsBounded (s ×ˢ s) ↔ IsBounded s := by
   rcases s.eq_empty_or_nonempty with (rfl | hs); · simp
   exact (isBounded_prod_of_nonempty (hs.prod hs)).trans and_self_iff
 
+section tendsto
+
+lemma _root_.Filter.Tendsto.cobounded_prod {γ : Type*} {f : α × β → γ} {l : Filter γ}
+    (h₁ : ∀ s : Set α, IsBounded s → Tendsto f (𝓟 s ×ˢ cobounded β) l)
+    (h₂ : Tendsto f (cobounded α ×ˢ ⊤) l) :
+    Tendsto f (cobounded (α × β)) l := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Bornology/Constructions.lean]: I appreciate this argument, but it's a more general fact about `Filter.coprod`. See this message from Anatole [#mathlib4 > filter coprod lemma @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/filter.20coprod.20lemma/near/553572758) in the Zulip thread I opened about this. His `Filter.foo` should probably be called `Filter.coprod_eq_prod_top_sup_iSup_principal_prod` or something like that. We should have that lemma, and the counterpart via symmetry. From that, this bornology lemma should be so trivial that it's likely not even necessary to write (although maybe it would be helpful to have anyway).

**Review by j-loreaux — COMMENTED** [review]
@MichaelStollBayreuth Thanks so much for your efforts here! I appreciate you taking the time to work through some of my suggestions even though they were outside your area of expertise, and I'm sorry our existing infrastructure for `BoundedFoo` wasn't suitable for the task. I should have realized that before.

Let me know if the suggestions below seem reasonable to you (i.e., particularly the bit about simplifying the statements to `SeminormedAddCommGroup`).

If you don't want to do it, I can create a PR for the `Filter.coprod` lemmas I mentioned in a comment below. If you don't get to it today, or don't want to, I'll try to create that PR this evening. I'll do it quickly so that we can get the current PR merged sooner rather than later.

File: Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean (hunk 16 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/GelfandMazur.lean:65]: Added.

File: Mathlib/Analysis/Normed/Algebra/Basic.lean (hunk 15 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Normed/Algebra/Basic.lean]: OK.

File: Mathlib/Topology/Bornology/BoundedOperation.lean (hunk 17 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Bornology/BoundedOperation.lean]: I've done that (i.e., moved the relevant results to the `SeminormedAddCommGroup` part of the file and deleted some stuff that is then no longer necessary).

File: Mathlib/Topology/Bornology/Constructions.lean (hunk 18 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Bornology/Constructions.lean]: Since I was not sure where to put Bhavik's second version (that needs ultrafilters), I went with the first version (slightly simplified) and the symmetric version of it. I would say it makes sense to change this to the other version in a separate PR (not by me). (BTW, I sent you a DM on Zulip asking about where to put this in the context of the necessary ultrafilter import, but there was no reply.)

**Review by j-loreaux — COMMENTED** [review]
Alright, thanks! This looks really nice.

bors merge
